US04843087
The intermediate 5-(5-chloro-3-pentynyl)-3-methylisoxazole was prepared from 3,5-dimethylisoxazole and 1,4-dichloro-2-butyne in the presence of n-butyllithium.

reactant | 3,5-dimethylisoxazole | CC1=NOC(=C1)C | C5H7NO
reactant | 1,4-dichloro-2-butyne | ClCC#CCCl | C4H4Cl2
reactant | n-butyllithium | C(CCC)[Li]
product | 5-(5-chloro-3-pentynyl)-3-methylisoxazole | ClCC#CCCC1=CC(=NO1)C | C9H10ClNO
